US06660759B1
To a mixture of cis4-(tert-butyldimethylsilyloxy)-N-benzyloxycarbonyl-D-proline (21.87 g), benzoin (12.25 g), and 4-dimethylaminopyridine (7.04 g) in CH2Cl2 (200 mL) was added 1-ethyl-3-(3′-dimethylaminopropyl)carbodiimide (10.52 mL) at 5° C., and the mixture was stirred at room temperature for 20 hours. The reaction mixture was evaporated, and the residue was dissolved in EtOAc (250 mL), washed with 1N HCl (150 mL), water, saturated sodium hydrogen carbonate solution, water and brine, dried (MgSO4), and evaporated in vacuo. The residue was purified by silica gal column chromatography (hexane-EtOAc, 5:2 elution) to give cis4-(tert-butyldimethylsilyloxy)-N-benzyloxycarbonyl-D-proline 2-oxo-1,2-diphenylethyl ester (21.62 g).

reactant | cis4-(tert-butyldimethylsilyloxy)-N-benzyloxycarbonyl-D-proline | 21.87 g | [Si](C)(C)(C(C)(C)C)O[C@@H]1C[C@@H](N(C1)C(=O)OCC1=CC=CC=C1)C(=O)O | C19H29NO5Si
reactant | benzoin | 12.25 g | C1(=CC=CC=C1)C(=O)C(O)C1=CC=CC=C1 | C14H12O2
reactant | 1-ethyl-3-(3′-dimethylaminopropyl)carbodiimide | 10.52 mL | C(C)N=C=NCCCN(C)C | C8H17N3
catalyst | 4-dimethylaminopyridine | 7.04 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
product | cis4-(tert-butyldimethylsilyloxy)-N-benzyloxycarbonyl-D-proline 2-oxo-1,2-diphenylethyl ester | 21.62 g | O=C(C(C1=CC=CC=C1)OC([C@@H]1N(C[C@@H](C1)O[Si](C)(C)C(C)(C)C)C(=O)OCC1=CC=CC=C1)=O)C1=CC=CC=C1 | C33H39NO6Si
